US05480873
N-(9,10-Dihydro-4,5-dimethoxy-9,10-dioxoanthracen-2-yl)methanesulphonamide (1.45 g) was suspended in a 48% solution of hydrobromic acid in water (30 ml) and heated to reflux under an atmosphere of nitrogen for 60 hours. The mixture was poured into water (100 ml) generating a precipitate which was collected by filtration. Drying in vacuo over silica gel yielded N-(9,10-dihydro-4,5-dihydroxy-9,10-dioxoanthracen-2-yl)methanesulphonamide at 92% purity (HPLC) as a brown powder, m.p. >300° C.

reactant | N-(9,10-Dihydro-4,5-dimethoxy-9,10-dioxoanthracen-2-yl)methanesulphonamide | 1.45 g | COC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)=O)NS(=O)(=O)C | C17H15NO6S
reactant | hydrobromic acid | Br | BrH
solvent | water | 30 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | N-(9,10-dihydro-4,5-dihydroxy-9,10-dioxoanthracen-2-yl)methanesulphonamide | OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)O)=O)NS(=O)(=O)C | C15H11NO6S
